************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G2_INV_N1
* View Name:     schematic
* Netlisted on:  Oct 20 15:52:17 2021
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    TIGFET_TILEG2_SP15CP15_NoConnection
* View Name:    schematic
************************************************************************

.SUBCKT TIGFET_TILEG2_SP15CP15_NoConnection cg1 cg2 cg3 cg4 g1 g2 g3 g4 n1 n2 
+ n3 n4 n5 n6
*.PININFO cg1:I cg2:I cg3:I cg4:I g1:I g2:I g3:I g4:I n1:I n2:I n3:I n4:I n5:I 
*.PININFO n6:I
XI3 cg4 n4 g4 g4 n5 / TIGFET_PCELL_SP15CP15
XI2 cg2 n3 g2 g2 n2 / TIGFET_PCELL_SP15CP15
XI1 cg3 n6 g3 g3 n5 / TIGFET_PCELL_SP15CP15
XI0 cg1 n1 g1 g1 n2 / TIGFET_PCELL_SP15CP15
.ENDS

************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G2_INV_N1
* View Name:    schematic
************************************************************************

.SUBCKT G2_INV_N1 A Ab B Bb GND Vdd
*.PININFO A:I B:I GND:I Vdd:I Ab:O Bb:O
XI0 A B A B Ab Bb Ab Bb GND Vdd GND Vdd GND Vdd / 
+ TIGFET_TILEG2_SP15CP15_NoConnection
.ENDS

